US05180741
Stage B: 3-trimethylsilyloxy-7-(2-propenyl)-indene
1.24 ml of diisopropylamine and 6 ml of tetrahydrofuran are cooled to -40° C., then 4.7 ml of butyllithium is added drop by drop. The temperature is allowed to rise to -20° C., agitation is carried out for 1/4 hour, then 1 g of 4-(2-propenyl)-1-indanone in 10 ml of tetrahydrofuran is introduced at -70° C. After agitation for one hour at -60° C., 1.15 ml of trimethylsilyl chloride in 6 ml of tetrahydrofuran is added, with agitation for one hour at -60° C. The mixture is poured over 100 ml of water and ice and 100 ml of ether. After decanting, the aqueous phase is extracted with ether, the organic phases are reunited, dried and concentrated to dryness without heating, and 1.51 g of expected product is isolated.

reactant | diisopropylamine | 1.24 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 4.7 ml | C(CCC)[Li]
reactant | 4-(2-propenyl)-1-indanone | 1 g | C(C=C)C1=C2CCC(C2=CC=C1)=O | C12H12O
reactant | trimethylsilyl chloride | 1.15 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 3-trimethylsilyloxy-7-(2-propenyl)-indene | 1.51 g | C[Si](OC1=CCC2=C(C=CC=C12)CC=C)(C)C | C15H20OSi
